US09340527B2
To the solution of (5-methoxy-2-nitrophenyl)methanol (18 g, 0.098 mol) in anhydrous DCM (0.2 L) was added PDC (11.5 g, 0.147 mol, 1.5 eq) and 4 A MS (120 g) in portions. The mixture was stirred at room temperature for 16 h, filtered through a Celite pad. The filtrate was evaporated to dryness in vacuum to afford 5-methoxy-2-nitrobenzaldehyde (10 g, yield: 57%) as a light yellow solid. 1HNMR (400 MHz, DMSO-d6) δ: 10.24 (s, 1H), 8.14 (d, J=8.8 Hz, 1H), 7.31 (dd, J=8.8, 3.2 Hz, 1H), 7.20 (d, J=3.2 Hz, 1H), 3.89 (s, 3H); ESI-MS: m/z 182.0 ([M+1]+).

reactant | (5-methoxy-2-nitrophenyl)methanol | 0.098 mol, 18 g | COC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C8H9NO4
reactant | PDC | 0.147 mol, 11.5 g, 1.5 eq | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | DCM | 0.2 L | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-nitrobenzaldehyde | 10 g, yield: 57% | COC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C8H7NO4
